US06576766B1
(b) Benzyl 5-Formyl-6-[[(trifluoromethyl)sulfonyl]oxy]-2-naphthoate
To a mixture of benzyl 5-formyl-6-hydroxy-2-naphthoate (410 mg, 1.33 mmol) in 6.25 mL of CH2Cl2 at rt under N2 was added 0.28 mL (2.00 mmol) of Et3N followed by 717 mg (2.00 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for 18 h at rt, diluted with saturated aqueous NaHCO3 and extracted with CH2Cl2. The extract was dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel. Elution with 4:1 hexanes-Et2O afforded 560 mg (96%).

reactant | benzyl 5-formyl-6-hydroxy-2-naphthoate | 1.33 mmol, 410 mg | C(=O)C1=C2C=CC(=CC2=CC=C1O)C(=O)OCC1=CC=CC=C1 | C19H14O4
reactant | Et3N | 2.00 mmol, 0.28 mL | CCN(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 2.00 mmol, 717 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 6.25 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Benzyl 5-Formyl-6-[[(trifluoromethyl)sulfonyl]oxy]-2-naphthoate | C(=O)C1=C2C=CC(=CC2=CC=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C20H13F3O6S
